US07893056B2
To a solution of the first eluting enantiomer of N,N,5,5-tetramethyl-1-(phenylmethyl)-3-pyrrolidinamine (1.0607 g, 4.569 mmol) in MeOH (40 mL) was added 1 N aq. HCl (9.1 mL, 9.1 mmol) and 10% Pd/C (50% water, 265 mg). The mixture was hydrogenated overnight and was then filtered through a 0.2 μm PTFE membrane. The solution was concentrated in vacuo, and the residue was azeotroped with MeOH (5×50 mL) to give crude N,N,5,5-tetramethyl-3-pyrrolidinamine dihydrochloride (1.0206 g, >100% crude yield) as a white foam. LCMS: (M+H)+: 143.1.

reactant | N,N,5,5-tetramethyl-1-(phenylmethyl)-3-pyrrolidinamine | 4.569 mmol, 1.0607 g | CN(C1CN(C(C1)(C)C)CC1=CC=CC=C1)C | C15H24N2
reactant | HCl | 9.1 mmol, 1 N, 9.1 mL | Cl | ClH
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd/C | 265 mg | [Pd] | Pd
product | N,N,5,5-tetramethyl-3-pyrrolidinamine dihydrochloride | 1.0206 g | Cl.Cl.CN(C1CNC(C1)(C)C)C | InChI=1S/C8H18N2.2ClH/c1-8(2)5-7(6-9-8)10(3)4;;/h7,9H,5-6H2,1-4H3;2*1H
